.INCLUDE '/home/chetanya/OpenFASOC/openfasoc/common/platforms/sky130hd/cdl/sky130_fd_sc_hd.spice'
.subckt nmos_test D G S B l=1 w=1 m=1 dm=1
XMAIN   D G S B sky130_fd_pr__nfet_01v8 l={l} w={w} m={m}
XDUMMY1 B B B B sky130_fd_pr__nfet_01v8 l={l} w={w} m={dm}
XDUMMY2 B B B B sky130_fd_pr__nfet_01v8 l={l} w={w} m={dm}
.ends nmos_test